US06630488B1
Compound XII: (S)-2-Benzenesulfonylamino-3-({7-[3-(3-methyl-ureido)-propoxy]-4-oxo-4H-quinolizine-2-carbonyl}-amino)-propionic Acid
To a mixture of (S)-3-{[7-(3-amino-propoxy)-4-oxo-4H-quinolizine-2-carbonyl]-amino}-2-benzenesulfonylamino-propionic acid tert-butyl ester (10.0 mg, 0.015 mmol) in anhydrous acetonitrile (0.5 ml) were added triethylamine (4 μl, 0.030 mmol) and methyl isocyanate (1 μl, 0.015 mmol). The mixture was stirred for 5 minutes at 0° C. and 30 minutes at room temperature, quenched with water and extracted with dichloromethane (3x). The combined organic layers were dried (MgSC4) and concentrated to give 4.1 mg (81% yield) of desired product.

reactant | (S)-3-{[7-(3-amino-propoxy)-4-oxo-4H-quinolizine-2-carbonyl]-amino}-2-benzenesulfonylamino-propionic acid tert-butyl ester | 0.015 mmol, 10.0 mg | C(C)(C)(C)OC([C@H](CNC(=O)C=1C=C2C=CC(=CN2C(C1)=O)OCCCN)NS(=O)(=O)C1=CC=CC=C1)=O | C26H32N4O7S
reactant | triethylamine | 0.030 mmol, 4 μl | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 0.015 mmol, 1 μl | CN=C=O | C2H3NO
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
product | (S)-2-Benzenesulfonylamino-3-({7-[3-(3-methyl-ureido)-propoxy]-4-oxo-4H-quinolizine-2-carbonyl}-amino)-propionic Acid | 4.1 mg, 81% yield | C1(=CC=CC=C1)S(=O)(=O)N[C@H](C(=O)O)CNC(=O)C=1C=C2C=CC(=CN2C(C1)=O)OCCCNC(=O)NC | C24H27N5O8S
